US05741892
Synthesis of t-Butyl-(4S)-4-(N-benzyloxycarbonylamino)-5-methyl-3-oxohexanoate
To an ice-cooled solution of Z-Valine (5 g, 19.9 mmol) in 60 ml tetrahydrofuran was added N,N'-carbonyldiimidazole (3.55 g, 22.3 mmol) in one portion and the resulting mixture stirred for 3 h. t-Butyl acetate (13.5 ml, 100 mmol) was added dropwise to a solution of LDA (90 mmol in tetrahydrofuran (270 ml) at -78° C. After 30 min, the imidazolide solution was added dropwise via double-ended needle to the enolate. The resulting mixture was stirred for 2 h until the temperature rose to -15° C. The reaction was quenched with 400 ml saturated aqueous NH4Cl and extracted with ether (3×200 ml). The combined organic extracts were washed with 2N aqueous HCl (50 ml), saturated aqueous NaHCO3 (2×50 ml), dried over magnesium sulfate and evaporated to dryness in vacuo. The residue was purified by column chromatography on silica gel using ethyl acetate-hexane (1:4) as an eluent to give the product as a colorless oil (6.88 g).

reactant | Z-Valine | 19.9 mmol, 5 g | CC(C)[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | t-Butyl acetate | 100 mmol, 13.5 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | imidazolide | [N-]1C=NC=C1
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
product | t-Butyl-(4S)-4-(N-benzyloxycarbonylamino)-5-methyl-3-oxohexanoate | 6.88 g | C(C)(C)(C)OC(CC([C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O)=O | C19H27NO5
